US04281000
2-Ethyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
As for Example 2, 2.72 g. of 3-amino-5-ethylpyrazole-4-carbonitrile is heated at reflux temperature for 16 hours with 3.52 g. of 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one in 25 ml. of glacial acetic acid to give 2.65 g. of the product of the example as colorless crystals, m.p. 170°-172° C.

reactant | 3-amino-5-ethylpyrazole-4-carbonitrile | NC1=NNC(=C1C#N)CC | C6H8N4
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Ethyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | C(C)C1=NN2C(N=CC=C2C=2C=NC=CC2)=C1C#N | C14H11N5
